US05001128
Step 6: Methyl-(E)-7-[7,9-di-(4-fluorophenyl)spiro[4.5]-deca-6,8-dien-6-yl]-5-hydroxy-3-oxo-6-heptenoate
To a stirred solution of diisopropylamine (3.13 ml, 22.38 mmoles) in 80 ml of anhydrous THF at -78° C., under nitrogen, was added 8.24 ml (20.59 mmoles) of a 2.5M hexane solution of n-butyllithium. After stirring for 5 minutes, a solution of methyl acetoacetate (1.07 g, 9.19 mmoles) in 10 ml of THF was added dropwise over 15 minutes. The dry ice acetone bath was removed and, after 10 minutes, an ice bath was applied. The mixture was stirred for 1.5 hours. To this mixture was added a solution of (E)-3-[7,9-di-(4-fluorophenyl)spiro[4.5]deca-6,8-dien-6-yl]2-propenaldehyde (2.7 g, 7.17 mmoles) in 50 ml of THF dropwise over 40 minutes. The mixture was stirred in ice for 1 hour and a solution of glacial acetic acid (2.46 ml, 42.97 mmoles) in 10 ml of THF was added dropwise over 5 minutes. The mixture was poured into 250 ml of ethylacetate and was extracted with water, sodium bicarbonate and brine. The organic layer was dried over magnesium sulfate and was evaporated in vacuo to give 3.3 g of product having an m.p. of 96-9° C.

reactant | diisopropylamine | 22.38 mmoles, 3.13 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl acetoacetate | 9.19 mmoles, 1.07 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | (E)-3-[7,9-di-(4-fluorophenyl)spiro[4.5]deca-6,8-dien-6-yl]2-propenaldehyde | 7.17 mmoles, 2.7 g | FC1=CC=C(C=C1)C1=C(C2(CCCC2)CC(=C1)C1=CC=C(C=C1)F)/C=C/C=O | C25H22F2O
reactant | acetic acid | 42.97 mmoles, 2.46 ml | C(C)(=O)O | C2H4O2
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ethylacetate | 250 ml | C(C)OC(C)=O | C4H8O2
solvent | hexane | 2.5M | CCCCCC | C6H14
product | Methyl-(E)-7-[7,9-di-(4-fluorophenyl)spiro[4.5]-deca-6,8-dien-6-yl]-5-hydroxy-3-oxo-6-heptenoate | 3.3 g | COC(CC(CC(\C=C\C=1C2(CCCC2)CC(=CC1C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)O)=O)=O | C30H30F2O4
